US04237056
PREPARATION OF N-(1,3-DIOXOLAN-2-YLMETHYL)-N-METHYL-2-CHLOROACETAMIDE
N-Methyl-N-(2,2-dimethoxyethyl)-2-chloroacetamide (19.5 grams; 0.10 mole), ethylene glycol (6.82 grams; 0.11 mole) and 10 drops of a solution of one gram of p-toluenesulfonic acid in 100 ml of diethyl ether were charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer, distillation head and condenser. The mixture was stirred and heated to about 100° C. to 110° C. Byproduct methanol was distilled off. When no further methanol was evolved, the mixture was cooled to room temperature, sodium carbonate (2 grams) was added and the slurry was stirred for a period of about 1 hour. The slurry was then filtered and the filtrate fractionally distilled under reduced pressure. The desired product N-(1,3-dioxolan-2-ylmethyl)-N-methyl-2-chloroacetamide was obtained as a fraction boiling at 124° C. at 0.30 mm Hg and at 119° C. at 0.15 mm Hg.

reactant | N-Methyl-N-(2,2-dimethoxyethyl)-2-chloroacetamide | 0.10 mole, 19.5 grams | CN(C(CCl)=O)CC(OC)OC | C7H14ClNO3
reactant | ethylene glycol | 0.11 mole, 6.82 grams | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | one gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(1,3-dioxolan-2-ylmethyl)-N-methyl-2-chloroacetamide | O1C(OCC1)CN(C(CCl)=O)C | C7H12ClNO3
